US20010000345A1
A mixture of 668 mg of 2,3-diamino-6-nitrotoluene, 20 mL of glacial acetic acid and 2 mL of 12N hydrochloric acid is heated to reflux for 3 hours. The resulting mixture is cooled to room temperature and rotary evaporated. The residue is diluted with 20 mL of water, and basified with ammonium hydroxide (28-30%). The resulting suspension is extracted with ethyl acetate and the extracts are dried over magnesium sulfate, filtered and rotary evaporated to provide 720 mg of 2,4-dimethyl-5-nitrobenzimidazole as a tan solid.

reactant | 2,3-diamino-6-nitrotoluene | 668 mg | NC1=C(C(=CC=C1N)[N+](=O)[O-])C | C7H9N3O2
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 12N, 2 mL | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 20 mL | O | H2O
product | 2,4-dimethyl-5-nitrobenzimidazole | 720 mg | CC=1NC2=C(N1)C=CC(=C2C)[N+](=O)[O-] | C9H9N3O2
